* Transient Testbench for Kogge-Stone Prefix Cells (Black & Gray Operators)
.include "schematic.spice"
VVDD VDD 0 DC 1.8V
VVSS VSS 0 DC 0.0V
VG_IK G_IK 0 PULSE(0 1.8 100ps 50ps 50ps 2ns 4ns)
VP_IK P_IK 0 PULSE(0 1.8 150ps 50ps 50ps 2ns 4ns)
VG_KJ G_KJ 0 PULSE(0 1.8 200ps 50ps 50ps 3ns 6ns)
VP_KJ P_KJ 0 PULSE(0 1.8 250ps 50ps 50ps 3ns 6ns)
XBLACK G_IK P_IK G_KJ P_KJ G_IJ P_IJ VDD VSS KS_BLACK_CELL
XGRAY  G_IK P_IK G_KJ      G_GRAY    VDD VSS KS_GRAY_CELL
.tran 1ps 10ns
.measure tran tpd_black_g TRIG V(G_IK)=0.9 RISE=1 TARG V(G_IJ)=0.9 RISE=1
